US05891909
c) 3-[5-Methyl-3-[2-(methylsulfonyl)phenylsulfonyloxy]phenoxy]propionaldehyde
A solution of 3-[5-methyl-3-[2-(methylsulfonyl)phenylsulfonyloxy]-phenoxy]propanol (1.16 g, 2.9 mmol), as prepared in the preceding step, anhydrous dimethyl sulfoxide (0.62 mL, 8.7 mmol), and N,N-diisopropylethylamine (1.0 mL, 6.1 mmol) in anhydrous dichloromethane (30 mL) was treated with sulfur trioxide pyridine complex (0.97 g 6.1 mmol) at 0° C. The reaction mixture was stirred for 0.75 h before quenching with 10% aqueous citric acid (40 mL). The dichloromethane layer was separated and the aqueous layer was extracted with dichloromethane (4×40 mL). The dichloromethane layers were combined and washed with brine, dried, and evaporated to dryness. The material was used without purification in the next step.

reactant | 3-[5-methyl-3-[2-(methylsulfonyl)phenylsulfonyloxy]-phenoxy]propanol | 2.9 mmol, 1.16 g | CC=1C=C(C=C(OCCCO)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C17H20O7S2
reactant | dimethyl sulfoxide | 8.7 mmol, 0.62 mL | CS(=O)C | C2H6OS
reactant | N,N-diisopropylethylamine | 6.1 mmol, 1.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-[5-Methyl-3-[2-(methylsulfonyl)phenylsulfonyloxy]phenoxy]propionaldehyde | CC=1C=C(C=C(OCCC=O)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C17H18O7S2
